Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Nsaids / Biaxin / Keflex / E-Mycin / Tenormin / 
Influenza Virus Vaccine / Bactrim DS / Minocin / 
Propylthiouracil / Benedryl / prednisone / Sulfa (Sulfonamide 
Antibiotics) / Iodine/IVP dye
 
Attending: ___.
 
Chief Complaint:
fever, abdominal distentsion

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with history of ITP with platelet storage 
pool defect (followed @ ___ Hematology), cerebellar bleed, MS 
not on medications, ___, Graves disease, multiple GI 
complaints that are mostly functional/IBS/SIBO, who is requested 
for direct admit by her GI doctor ___.  
 
Patient has seen by her PCP multiple times in past month, has 
had per her report daily fevers to ___ x 4 weeks.  She went to 
___ where she was admitted ___, and she was diagnosed with a 
flare of ITP, and was discharged on steroids.  She has no other 
clear symptoms other than abdominal bloating as well as 
intermittent headaches that have improved since being on a 
steroid course for her ITP, which she stopped a week ago.  Per 
her report, after discharge her CMV testing returned positive; 
she doesn't know whether this was via viral load or antibody 
testing.  ID was apparently involved and didn't want any 
treatment, per her report – she was told to “wait it out” at 
home, but her fevers have persisted, last was ___ yesterday.  
She is otherwise stable at home except for persistent fevers.  
She has been unable to reach her PCP for consultation or an 
appointment for the past week, so she called her GI provider.

She denies any confusion, syncope/presyncope, orthostatic sx, 
tachypnea, palpitations to suggest vital sign derangements 
necessitating a higher level of care.  Per her outpatient GI, 
she will likely require GI consultation on admission due to her 
complicated symptomology.  

Currently, the patient has no abdominal pain or headache.  She 
is currently afebrile.  She reports a light, itchy rash on her 
left thigh.  She also reports a lesion on her right labia majora 
which has been there for 3 days and is mildly painful.
 
Review of systems:  
(+) Per HPI  
(-) Denies recent weight loss or gain. + dry cough. Denies chest 
pain or tightness, palpitations. Denies diarrhea, constipation 
or abdominal pain. No recent change in bowel or bladder habits. 
No dysuria. Denies arthralgias or myalgias. Ten point review of 
systems is otherwise negative. 
 

 
Past Medical History:
PLATELET DEFECT    
CEREBELLAR BLEED    
MULTIPLE SCLEROSIS    
(+) ___, (+) P-ANCA AND (+) MPO    
RECURRENT SINUSITIS    
COLON POLYP ___ 
GRAVES' DISEASE ___  
HYPERCHOLESTEROLEMIA   
PAROXYSMAL ATRIAL TACHYCARDIA   
VITAMIN D DEFICIENCY     
HYPOTHYROIDISM   
OVERACTIVE BLADDER   
SQUAMOUS CELL CARCINOMA    
GLUCOSE INTOLERANCE    
SQUAMOUS CELL CARCINOMA   
H/O ___ ___ 
 

 
Social History:
___
Family History:
melanoma, dad brain tumor, mom with CAD/CHF
 
Physical Exam:
Admission exam:
Vitals: T: 99.6 BP: 108/60 P: 124 R: 18 O2: 93% on RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, o/p 
clear, MMM.  
Neck: Supple, no JVD, no thyromegaly.  
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, mild tenderness on palpation of the epigastrium, 
moderately distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: light papular rash over right thigh and buttock
GU: small 1 cm ulceration on right labia majora, no purulent 
drainage
Neuro: non-focal.  
PSYCH: Appropriate and calm.  

Discharge exam:
Vitals: AVSS
Gen: NAD
HEENT: clear OP
CV: rrr, no r/m/g
Pulm: clear bilaterally
Abd: distended, nontender, +bs
Ext: no edema
Neuro: alert and oriented x 3, no focal deficits
 
Pertinent Results:
___ 09:40PM BLOOD WBC-11.4* RBC-4.63 Hgb-12.4 Hct-35.0* 
MCV-76* MCH-26.7* MCHC-35.3* RDW-15.0 Plt Ct-UNABLE TO 
___ 07:05AM BLOOD WBC-12.1* RBC-4.66 Hgb-12.4 Hct-35.8* 
MCV-77* MCH-26.5* MCHC-34.5 RDW-15.2 Plt Ct-UNABLE TO 
___ 07:00AM BLOOD WBC-9.3 RBC-4.52 Hgb-12.1 Hct-34.5* 
MCV-76* MCH-26.7* MCHC-35.0 RDW-15.6* Plt Ct-UNABLE TO 
___ 07:05AM BLOOD Glucose-121* UreaN-11 Creat-0.8 Na-135 
K-3.8 Cl-100 HCO3-25 AnGap-14
___ 09:40PM BLOOD ALT-291* AST-244* LD(LDH)-639* 
AlkPhos-284* TotBili-0.9
___ 07:05AM BLOOD ALT-279* AST-216* AlkPhos-298* 
TotBili-1.1
___ 07:00AM BLOOD ALT-202* AST-144* LD(LDH)-562* 
AlkPhos-280* TotBili-0.9
___ 09:40PM BLOOD Calcium-8.0* Phos-3.0 Mg-1.8
___ 07:05AM BLOOD Calcium-8.1* Phos-2.9 Mg-1.8
___ 06:05PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE IgM 
HBc-NEGATIVE
___ 06:05PM BLOOD AMA-PND Smooth-NEGATIVE
___ 06:05PM BLOOD ___
___ 06:05PM BLOOD IgG-___ year old female with fever of unknown origin, as well as 
abdominal bloating and intermittent headaches.

# Fevers/PNA: Pt had intermittent fever with associated cough. 
Chest imaging showed findings consistent with a pneumonia, so 
she was started on levofloxacin with an improvement in her fever 
curve. She had two days left at the time of discharge to 
complete a 7 day course for treatment of community acquired 
pneumonia. 

#Transaminitis/CMV infection: Pt had lab testing performed at 
___ and also repeated at ___. Workup was notable for positive 
CMV. HIV and hepatitis ABC as well as autoimmune markers were 
negative. She was seen by ID who did not recommend treating the 
CMV as she is immunocompetent. However, she will have close 
follow up of her LFT's to resolution of transaminitis which was 
improving during the hospitalization. In addition, she will have 
an opthalmology appoinment to rule out retinitis which was 
deemed to be unlikely as she had no visual symptoms. 

#Abdominal Distention/SIBO: pt started on rifaximin and miralax. 
She will have follow up with her outpatient gastroenterologist 
for follow up of her symptoms on this therapy.

# Platelet defect/ITP: recent ITP flare, came off steroids one 
week prior to admission. Her platelets were stable at the time 
of discharge. She has follow up with her hematologist at ___ 
following discharge. 
 
# Hypothyroidism: continued levothyroxine

# Multiple sclerosis: not on therapy, unclear what basis for 
diagnosis was; pt observed without attributable symptoms 
 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 112 mcg PO DAILY 
2. Gabapentin 100 mg PO QHS 
3. TraMADOL (Ultram) 50 mg PO BID:PRN pain 
4. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Gabapentin 100 mg PO QHS 
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
4. Amitriptyline 10 mg PO QHS 
RX *amitriptyline 10 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0
5. Rifaximin 550 mg PO/NG BID 
RX *rifaximin [Xifaxan] 550 mg one tablet(s) by mouth twice 
daily Disp #*30 Tablet Refills:*0
6. Levofloxacin 750 mg PO DAILY 
Please take on ___ and ___. 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*2 Tablet Refills:*0
7. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [___] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain - SIBO
ITP
Hepatitis/transaminitis - likely due to acute CMV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted for fevers at home and ongoing symptoms of 
abdominal bloating and discomfort.  In terms of the abdominal 
discomfort and bloating, you were thought to have a combination 
of functional abdominal pain and perhaps bacterial overgrowth. 
You have been started on amitryptiline and miralax for your 
abdominal discomfort and distention. Please follow up with your 
gastroenterologist as scheduled for further titration of the 
amitryptiline. You have been started on rifaximin to address 
potential SIBO, Dr ___ will follow up with you on this 
issue and will make recommendations on a course.  

In addition, you had fevers at home and intermittently in the 
hospital. Your workup was notable for abnormal liver function 
tests which is concerning for a viral infection with liver 
involvement. You had testing for hepatitis B which is negative 
but further testing for HIV, hepatitis C and hepatitis A is 
pending at the time of discharge. Given the degree of elevation 
in your liver function tests, and the type of symptoms you had 
while at ___ earlier in the month, it is very likely that the 
liver function tests can be explained by CMV infection. Since 
you have an intact immune system you don't necessarily need to 
be treated, and given your valid concerns for avoiding 
potentially marrow suppressive meds, you will be observed with 
serial labs to follow up your liver function tests. Please call 
your opthalmologist and schedule an urgent appointment for an 
urgent opthalmologic examination just to make sure you don't 
have any CMV involvement in the eye (it would be imperative to 
treat you in that situation). 

Finally, you will need to complete a course of levolfoxacin to 
treat a bacterial pneumonia. You are currently on day 3 at the 
time of discharge. You will be sent home with a script for 2 
more days of levofloxacin. 

Please follow up with your primary care physician, hematologist 
and gastroenterologist as arranged. In addition, please call 
your ophthalmologist to schedule an appointment as suggested. 

Take care, 
___, MD
 
Followup Instructions:
___